US04242346
A solution of 2.37 g. (10 mmol) of 7,8-dichloro-1,2,3,4-tetrahydroisoquinoline hydrochloride salt and 20 ml. of 37% formalin in 100 ml. of water was stirred in an ice bath for thirty minutes. 50 ml. of 5% sodium carbonate solution was added dropwise over 10 minutes and the resulting precipitate was removed by filtration, dissolved in 50 ml. of methylene chloride, dried over magnesium sulfate and filtered. The filtrate was treated with 25 ml. of ethereal hydrogen chloride and allowed to stand in the cold overnight. The resulting precipitate was collected, washed with ether and dried to give 2,2'-methylene-bis-(7,8-dichloro-1,2,3,4-tetrahydroisoquinoline dihydrochloride, melting point 153° C. dec.

reactant | 7,8-dichloro-1,2,3,4-tetrahydroisoquinoline hydrochloride salt | 10 mmol | Cl.ClC1=CC=C2CCNCC2=C1Cl
reactant | formalin | C=O | CH2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 7,8-dichloro-1,2,3,4-tetrahydroisoquinoline dihydrochloride | Cl.Cl.ClC1=CC=C2CCNCC2=C1Cl | InChI=1S/C9H9Cl2N.2ClH/c10-8-2-1-6-3-4-12-5-7(6)9(8)11;;/h1-2,12H,3-5H2;2*1H
